US04759796
48.0 g (0.20 mole) of 4-(5-chloro-3-fluoropyridin-2-yloxy)phenol and 38.2 g (0.20 mole) of 2-bromopropionic acid N-cyano-N-methylamide are dissolved in 400 ml of acetonitrile. 35.9 g (0.26 mole) of potassium carbonate and 0.33 g (0.002 mole) of potassium iodide are added to the solution and the reaction mixture is heated for 13 hours at 80° C. The precipitate is removed by filtration, the filtrate is concentrated by evaporation and the residue is taken up in 500 ml of methlyene chloride. The solution is purified by treatment with activated carbon and filtration through silica gel. The filtrate is concentrated by evaporation and the residue is crystallised from a mixture of hexane and ethyl acetate, affording 61 g of 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid N-cyano-N-methylamide.

reactant | 4-(5-chloro-3-fluoropyridin-2-yloxy)phenol | 0.20 mole, 48.0 g | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)O)F | C11H7ClFNO2
reactant | 2-bromopropionic acid N-cyano-N-methylamide | 0.20 mole, 38.2 g | C(#N)N(C(C(C)Br)=O)C | C5H7BrN2O
reactant | potassium carbonate | 0.26 mole, 35.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
catalyst | potassium iodide | 0.002 mole, 0.33 g | [I-].[K+]
product | 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid N-cyano-N-methylamide | 61 g | C(#N)N(C(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1F)Cl)=O)C | C16H13ClFN3O3
